US05728835
4-Nitro-N-(3-methylthiophenyl)benzamide
Using 3-methylthioaniline (1.40 ml, 11.0 mmol) and 4-nitrobenzoic acid (1.67 g, 10.0 mmol), the procedure of Reference Example 16 was repeated to obtain 2.46 g (85.2%) of the title compound in the form of yellow powder.

reactant | 3-methylthioaniline | 11.0 mmol, 1.40 ml | CSC=1C=C(N)C=CC1 | C7H9NS
reactant | 4-nitrobenzoic acid | 10.0 mmol, 1.67 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 4-Nitro-N-(3-methylthiophenyl)benzamide | 2.46 g, 85.2% | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC(=CC=C2)SC)C=C1 | C14H12N2O3S
